US08491869B2
2-(4-Azidophenyl)quinoline*TFA:
T446 To a solution of 4-(quinolin-2-yl)aniline dihydrochloride (29.0 mg, 0.1 mmol) in 1 N HCl (1 mL) was added NaNO2 solution (7.0 mg in 0.3 mL water, 0.1 mmol) at 0° C. The mixture was stirred at 0° C. for 2 hrs before NaN3 (7.8 mg in 1.0 mL water, 0.12 mmol) was added at 0° C. The mixture was stirred at 0° C. for 1 hour and concentrated. The residue was purified by HPLC (acetonitrile/water) to give T446 as a light yellow solid (23.0 mg, 64%). 1H NMR (400 MHz, CD3OD): δ 8.31 (d, J=8.8 Hz, 1H), 8.10 (m, 2H), 8.00 (m, 1H), 7.90 (d, J=8.8 Hz, 1H), 7.85 (dd, J=8.2, 1.4 Hz, 1H), 7.69 (m, 1H), 7.50 (m, 1H), 7.16 (m, 2H); MS (ESI): 247 (M+H+).

reactant | 4-(quinolin-2-yl)aniline dihydrochloride | 0.1 mmol, 29.0 mg | Cl.Cl.N1=C(C=CC2=CC=CC=C12)C1=CC=C(N)C=C1
reactant | NaNO2 | 0.1 mmol, 0.3 mL, 7.0 mg | N(=O)[O-].[Na+]
reactant | NaN3 | 0.12 mmol, 1.0 mL, 7.8 mg | [N-]=[N+]=[N-].[Na+]
solvent | HCl | 1 N, 1 mL | Cl | ClH
product | 2-(4-Azidophenyl)quinoline | 23.0 mg, 64% | N(=[N+]=[N-])C1=CC=C(C=C1)C1=NC2=CC=CC=C2C=C1 | C15H10N4
